US06620811B2
2-Methoxymethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methylaminomethyl-isonicotinamide (200 mg, 0.48 mmol, dissolved in tetrahydrofurane (5.0 ml), is treated with sodium methoxide (81 mg, 1.4 mmol) at 0° C. and the mixture heated to 50° C. for 15 h. The mixture is quenched with saturated sodium carbonate (4.0 ml), extracted four times with each 15 ml dichloromethane and the combined organic phases dryed and evaporated. Flash chromatography (first SiO2, eluent: dichloromethane/methanol 0 to 5% and second dichloromethane/ethyl acetae 30% to 60%) afforded the title compound as light yellow crystals (49 mg, 25% yield). MS: m/e=415 (M+H+).

reactant | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methylaminomethyl-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)CNC)=O)N2CCOCC2 | C20H23N5O3S
reactant | sodium methoxide | 1.4 mmol, 81 mg | C[O-].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | tetrahydrofurane | 5.0 ml | O1CCCC1 | C4H8O
product | 2-Methoxymethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 49 mg, 25% yield | COCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C20H22N4O4S
